US09315491B2
4-Chloro-2,6-dimethoxy-5-methylsulfanyl-pyrimidine
A mixture of 2,4,6-trichloro-5-methylsulfanyl-pyrimidine (5.00 g, 21.73 mmol.) was added dropwise to a slurry of sodium methoxide (2.47 g, 45.65 mmol, 2.1 eq) in MeOH (80 ml) in ice bath at 0° C., then the reaction mixture was stirred at r.t, for 2 hrs and dried, and the solvent was evaporated. The reaction mixture was partitioned between EA and 0.1 N HCl. The organic layer was washed with brine, dried over MgSO4, filtered and evaporated in vacuo. The resulting residue was purified by flash chromatography on silica gel (Hexane/EtOAc 9:1) to give a gray solid 3.36 g (70.2%).

reactant | 2,4,6-trichloro-5-methylsulfanyl-pyrimidine | 21.73 mmol, 5.00 g | ClC1=NC(=C(C(=N1)Cl)SC)Cl | C5H3Cl3N2S
reactant | sodium methoxide | 45.65 mmol, 2.47 g, 2.1 eq | C[O-].[Na+]
reactant | MeOH | 80 ml | CO | CH4O
product | 4-Chloro-2,6-dimethoxy-5-methylsulfanyl-pyrimidine | 3.36 g, 70.2% | ClC1=NC(=NC(=C1SC)OC)OC | C7H9ClN2O2S
